US05889026
Palladium on carbon (10%, 50 mg) was added to a solution of N-[3-(4-benzyl-4-hydroxy-piperidin-1-yl)-propyl]-4-benzyloxy-benzamide (185 mg, 0.40 mmol) in acetic acid (5 ml). The hydrogenation was complete after 4 h. The catalyst was removed by filtration through celite and the solvent was evaporated. Sodium bicarbonate (10% aq. solution, 2 ml) was added, and the aqeous layer extracted with dichloromethane. The organic layer was dried (Na2SO4), filtered and evaporated to give N-[3-(4-benzyl-4-hydroxy-piperidin-1-yl)-propyl]-4-hydroxy-benzamide (130 mg, 87%) as a white solid. MS: me/e=369 (M+H)+.

reactant | N-[3-(4-benzyl-4-hydroxy-piperidin-1-yl)-propyl]-4-benzyloxy-benzamide | 0.40 mmol, 185 mg | C(C1=CC=CC=C1)C1(CCN(CC1)CCCNC(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O)O | C29H34N2O3
catalyst | Palladium on carbon | 50 mg | [Pd] | Pd
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-[3-(4-benzyl-4-hydroxy-piperidin-1-yl)-propyl]-4-hydroxy-benzamide | 130 mg, 87% | C(C1=CC=CC=C1)C1(CCN(CC1)CCCNC(C1=CC=C(C=C1)O)=O)O | C22H28N2O3
